Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.42012565281
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:3],5.39233100993
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],4.16256484657
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.52369362165
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2],6.87066267377
[O:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4][H:5].[O:1]=[C:2]([C:3][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],7.63167552688
[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15],-4.82834035939
[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.34832924911
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11],5.12657413328
[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]1([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[C:13]([H:14])[H:15])[C:16]([H:17])[H:18],2.82204392
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.3743880915
[H:1][O:2][C:3][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.88951044706
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.8654497568100001
[H:1][C:2](=[O:3])[C:11]([C:6](=[C:4][H:5])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-1.06912200895
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[H:5],-0.5825765560499999
[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.63043781818
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9],1.68588151812
[C:1][C:2]#[C:3][C:4]>>[C:1]#[C:2].[C:3]#[C:4],6.05222863351
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3],0.267594053901
[C:1].[C:2][C:3][O:4]>>[C:1][C:2]#[C:3][O:4],-7.95488196418
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]1([H:8])[C:9]([H:10])([H:11])[O:12][C:13]1([H:14])[H:15]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],0.00183510358966
[C:1]#[C:2][C:3]([H:4])([C:5]#[C:6])[O:7][H:8]>>[C:1]#[C:2][C:3]([C:5]#[C:6])[O:7][H:8].[H:4],1.51909795646
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],4.67477964669
[H:1]/[C:2](=[C:3]\[C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.3174175556
[C:1].[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9],-5.88901333432
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:4],2.0809525298
[C:5]#[C:6][C:7][O:8][H:9].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7][O:8][H:9],-1.6864246103799998
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.82328447991
[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[O:1]([C:2]=[C:3]([H:7])[H:8])[H:5].[O:4]=[C:6],1.15330706656
